US05011947
1,1-Dimethylethyl 6-[3-difluoromethyl-4,4-bis(4-fluorophenyl)-1,3-butadienyl]-1,3-dioxane-4-acetate
Butyl lithium (1.04 mL of 2.5M solution, 2.6 mmol) was added to a solution of dimethyl [3,3-bis(4-fluorophenyl)-2-difluoromethyl-2-propen-1-yl]phosphonate (1.0 g, 2.6 mmol) in 10 mL of tetrahydrofuran at -78° C. After stirring for 30 minutes, 1,1-dimethylethyl 6-formyl-2,2-dimethyl-1,3-dioxane-4-acetate (0.82 g, 3.2 mmol) was added and the mixture stirred for 64 hrs. at room temperature. The mixture was quenched with saturated ammonium chloride solution and extracted with diethyl ether. The extracts were dried over magnesium sulfate and conentrated in vacuo. The residue was purified by chromatography on silica eluting with 5% ethyl acetate in hexane to give an oil. Crystallization from pentane gave 0.6 g of the title compound; m.p. =124°-125° C.

reactant | Butyl lithium | 2.6 mmol, 2.5M, 1.04 mL | C(CCC)[Li]
reactant | dimethyl [3,3-bis(4-fluorophenyl)-2-difluoromethyl-2-propen-1-yl]phosphonate | 2.6 mmol, 1.0 g | FC1=CC=C(C=C1)C(=C(CP(OC)(OC)=O)C(F)F)C1=CC=C(C=C1)F | C18H17F4O3P
reactant | 1,1-dimethylethyl 6-formyl-2,2-dimethyl-1,3-dioxane-4-acetate | 3.2 mmol, 0.82 g | C(=O)C1CC(OC(O1)(C)C)CC(=O)OC(C)(C)C | C13H22O5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 6-[3-difluoromethyl-4,4-bis(4-fluorophenyl)-1,3-butadienyl]-1,3-dioxane-4-acetate | 0.6 g | FC(C(C=CC1CC(OCO1)CC(=O)OC(C)(C)C)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)F | C27H28F4O4
